US07598257B2
Step 3: tert-Butyl [1-(hydroxymethyl)cyclopentyl]methylcarbamate
To a solution of methyl 1-[(tert-butoxycarbonyl)amino]methylcyclopentanecarboxylate (1.50 g, 5.83 mmol) in THF (25.0 mL) at −78° C. was added dropwise 1.0 M diisobutylaluminum hydride in DCM (17.5 mL). The reaction was stirred for 2 hours with slow warming to −10° C. A saturated solution of K/Na tartrate was added, followed by ether. This mixture was stirred for 30 minutes at ambient temperature and the organic layer was separated and washed with water, and brine. The organic layer was then dried over sodium sulfate, and the solvent was removed in vacuo to afford the product (1.03 g, 77%). 1H NMR (300 MHz, CDCl3): δ 4.90 (br s, 1H), 3.27 (s, 2H), 3.06 (d, 2H), 1.5-1.17 (m, 8H), 1.44 (s, 9H).

reactant | methyl 1-[(tert-butoxycarbonyl)amino]methylcyclopentanecarboxylate | 5.83 mmol, 1.50 g | C(C)(C)(C)OC(=O)NCC1(CCCC1)C(=O)OC | C13H23NO4
reactant | diisobutylaluminum hydride | 1.0 M | [H-].C(C(C)C)[Al+]CC(C)C
reactant | ether | CCOCC | C4H10O
solvent | THF | 25.0 mL | C1CCOC1 | C4H8O
solvent | DCM | 17.5 mL | C(Cl)Cl | CH2Cl2
product | tert-Butyl [1-(hydroxymethyl)cyclopentyl]methylcarbamate | 1.03 g, 77% | OCC1(CCCC1)CNC(OC(C)(C)C)=O | C12H23NO3
